* Created by KLayout
*** My special header ***

* cell tr_1um_Qdai03
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_Qdai03 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 -388.7,-637.6
X$1 P4 P7 VDD VSS inverter_Tanaka_Airi
* cell instance $2 r0 *1 0,0
X$2 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $3 r0 *1 -234.5,-497.2
X$3 VDD P4 P9 VSS inverter_Tsukasa_Yamamoto
* cell instance $4 r0 *1 112.2,-481.8
X$4 P4 P10 VDD VSS inverter_YU_WENJUN
* cell instance $5 r0 *1 548.5,-498.2
X$5 VDD P11 P4 VSS inverter_xu_wenying
* cell instance $6 r0 *1 -714.7,564.6
X$6 VDD P4 P3 VSS inverter_Satoshi_Kawakami
* cell instance $7 r0 *1 -369.5,491.2
X$7 P4 VDD P2 VSS inverter_Seigo_Mitarai
* cell instance $8 r0 *1 24.9,534.3
X$8 VDD P1 P4 VSS inverter_Shunsuke_Fujii
* cell instance $9 r0 *1 359,565.5
X$9 VDD P4 P15 VSS inverter_Shusuke_Isimaru
* cell instance $10 r0 *1 647.7,528.7
X$10 P14 VDD P4 VSS inverter_Takata_Ibuki
.ENDS tr_1um_Qdai03

* cell inverter_xu_wenying
* pin VDD
* pin Q
* pin A
* pin GND
.SUBCKT inverter_xu_wenying VDD Q A GND
* device instance $1 r180 *1 -9.6,-7.1 PMOS
XM$1 Q A VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 -9.4,-30.2 NMOS
XM$2 Q A GND GND NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_xu_wenying

* cell inverter_YU_WENJUN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT inverter_YU_WENJUN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 0.1,-6.2 PMOS
XM$1 \$3 \$1 \$2 \$3 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 0.1,-28.9 NMOS
XM$2 VSS \$1 \$2 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_YU_WENJUN

* cell inverter_Tsukasa_Yamamoto
* pin VDD
* pin 
* pin 
* pin VSS
.SUBCKT inverter_Tsukasa_Yamamoto VDD \$2 \$4 VSS
* device instance $1 r180 *1 1.2,15.8 PMOS
XM$1 \$4 \$2 VDD VDD PMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $2 r180 *1 1.3,-12.7 NMOS
XM$2 \$4 \$2 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Tsukasa_Yamamoto

* cell inverter_Tanaka_Airi
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT inverter_Tanaka_Airi \$2 \$3 \$4 VSS
* device instance $1 r0 *1 -201.5,175.9 PMOS
XM$1 \$4 \$2 \$3 \$4 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -201.4,151.5 NMOS
XM$2 VSS \$2 \$3 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Tanaka_Airi

* cell inverter_Satoshi_Kawakami
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_Satoshi_Kawakami VDD A Q VSS
* device instance $1 r0 *1 5.1,12.7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=8.2u AS=22.96p AD=22.96p PS=22u PD=22u
* device instance $2 r0 *1 5,-12.9 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Satoshi_Kawakami

* cell inverter_Seigo_Mitarai
* pin A
* pin VDD
* pin Q
* pin VSS
.SUBCKT inverter_Seigo_Mitarai A VDD Q VSS
* device instance $1 r0 *1 45.9,4 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=9.4u AS=26.32p AD=26.32p PS=24.4u PD=24.4u
* device instance $2 r0 *1 45.5,-25.2 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Seigo_Mitarai

* cell inverter_Takata_Ibuki
* pin Q
* pin VDD
* pin A
* pin VSS
.SUBCKT inverter_Takata_Ibuki Q VDD A VSS
* device instance $1 r180 *1 -45,97.6 PMOS
XM$1 Q A VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 -43.2,72.1 NMOS
XM$2 Q A VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Takata_Ibuki

* cell inverter_Shusuke_Isimaru
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_Shusuke_Isimaru VDD A Q VSS
* device instance $1 r0 *1 -3.8,-0.7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 -3.7,-23.4 NMOS
XM$2 Q A VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Shusuke_Isimaru

* cell inverter_Shunsuke_Fujii
* pin VDD
* pin Q
* pin A
* pin VSS
.SUBCKT inverter_Shunsuke_Fujii VDD Q A VSS
* device instance $1 r180 *1 -6,15.5 PMOS
XM$1 Q A VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 -6,-10.6 NMOS
XM$2 Q A VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Shunsuke_Fujii

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r270 *1 -130,0
X$1 VSS PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r270 *1 130,0
X$1 VDD PAD|VSS OSS_NCH_ESD
* cell instance $2 r90 *1 -130,0
X$2 PAD|VSS VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $1 r90 *1 130,0
X$1 PAD VSS OSS_NCH_ESD
* cell instance $3 r90 *1 -130,0
X$3 PAD VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
