* Created by KLayout
*** My special header ***

* cell tr_1um_Qdai02
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_Qdai02 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 -254.4,-516.3
X$1 P7 \$19 P4 VSS inverter_Kenji_Matsushita
* cell instance $2 r0 *1 0,0
X$2 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $3 r0 *1 39.3,-467.8
X$3 P9 P4 \$19 VSS inverter_Masayuki_Senoo
* cell instance $4 r0 *1 378.1,-515.1
X$4 P4 \$19 P10 VSS inverter_Mia_Kawano
* cell instance $5 r0 *1 -616.1,-494.4
X$5 P4 P6 \$19 VSS inverter_Kazuki_Arata
* cell instance $6 r0 *1 -682,561.6
X$6 P4 P3 \$19 VSS inverter_DAI_YIFAN
* cell instance $7 r0 *1 -466.8,583.1
X$7 \$19 P2 P4 VSS inverter_Hiroki_Otsuyama
* cell instance $8 r0 *1 662.5,-464.9
X$8 \$19 P4 P11 VSS inverter_Nayuta_Kohira
* cell instance $9 r0 *1 217.6,522.5
X$9 P15 \$19 P4 VSS inverter_Imoto_Ayana
* cell instance $10 r0 *1 554.9,511.2
X$10 \$19 P4 P14 VSS inverter_JuniusPuratama_SHIRO
* cell instance $11 r0 *1 -32.6,546
X$11 P4 P1 \$19 VSS inverter_Hisashi_Kino
.ENDS tr_1um_Qdai02

* cell inverter_Mia_Kawano
* pin A
* pin VDD
* pin Q
* pin VSS
.SUBCKT inverter_Mia_Kawano A VDD Q VSS
* device instance $1 r0 *1 -0.3,0.2 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -0.4,-27.9 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Mia_Kawano

* cell inverter_Nayuta_Kohira
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_Nayuta_Kohira VDD A Q VSS
* device instance $1 r0 *1 -1.3,-0.1 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -1.3,-21.6 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Nayuta_Kohira

* cell inverter_Kenji_Matsushita
* pin Q
* pin VDD
* pin A
* pin VSS
.SUBCKT inverter_Kenji_Matsushita Q VDD A VSS
* device instance $1 r0 *1 1.5,3.1 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $2 r0 *1 1.5,-35.7 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Kenji_Matsushita

* cell inverter_Kazuki_Arata
* pin A
* pin Q
* pin Vdd
* pin Vgnd
.SUBCKT inverter_Kazuki_Arata A Q Vdd Vgnd
* device instance $1 r180 *1 2.5,7.2 PMOS
XM$1 Q A Vdd Vdd PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 2.5,-15.6 NMOS
XM$2 Q A Vgnd Vgnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Kazuki_Arata

* cell inverter_Hisashi_Kino
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter_Hisashi_Kino A Q VDD VSS
* device instance $1 r0 *1 0,26.2 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=8.2u AS=22.96p AD=22.96p PS=22u PD=22u
* device instance $2 r0 *1 0,0 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Hisashi_Kino

* cell inverter_DAI_YIFAN
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter_DAI_YIFAN A Q VDD VSS
* device instance $1 r90 *1 -0.2,0.2 PMOS
XM$1 Q A VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r90 *1 0.1,-27.8 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_DAI_YIFAN

* cell inverter_Hiroki_Otsuyama
* pin VDD
* pin Q
* pin A
* pin VSS
.SUBCKT inverter_Hiroki_Otsuyama VDD Q A VSS
* device instance $1 r0 *1 5.7,1 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $2 r0 *1 5.7,-32.2 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Hiroki_Otsuyama

* cell inverter_JuniusPuratama_SHIRO
* pin VDD
* pin A
* pin Q
* pin VSS
.SUBCKT inverter_JuniusPuratama_SHIRO VDD A Q VSS
* device instance $1 r0 *1 2,18 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 2,-7.6 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_JuniusPuratama_SHIRO

* cell inverter_Imoto_Ayana
* pin vout
* pin VDD
* pin vin
* pin VSS
.SUBCKT inverter_Imoto_Ayana vout VDD vin VSS
* device instance $1 r0 *1 8.7,0.2 PMOS
XM$1 VDD vin vout VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 9,-22 NMOS
XM$2 VSS vin vout VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Imoto_Ayana

* cell inverter_Masayuki_Senoo
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT inverter_Masayuki_Senoo \$1 \$2 \$3 VSS
* device instance $1 r0 *1 -6.3,8.7 PMOS
XM$1 \$3 \$2 \$1 \$3 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -6.3,-15.2 NMOS
XM$2 VSS \$2 \$1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_Masayuki_Senoo

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
